US08003649B2
DIAD (7.78 mL, 39.53 mmol) was added dropwise to 4-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperazin-1-yl)phenol (12 g, 32.94 mmol), 2-(1-methyl-1H-pyrazol-5-yl)ethanol (6.23 g, 49.41 mmol) and triphenylphosphine (12.96 g, 49.41 mmol) in THF (250 mL). The resulting solution was stirred at ambient temperature for 18 hours then split and added to a series of SCX columns (6). The crude product was eluted from the columns using 2M NH3/MeOH and the solvents evaporated. The crude product was diluted with DCM (200 mL) and washed with 2M NaOH (200 mL×2). The organic layer was dried over MgSO4, filtered and evaporated then purified by flash silica chromatography, elution gradient 0 to 3% MeOH in DCM. Pure fractions were evaporated to dryness giving a yellow solid, which was triturated with ether then dried to afford 6-(4-(4-(2-(1-methyl-1H-pyrazol-5-yl)ethoxy)phenyl)piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine anhydrous Form A (9.18 g, 59.0%) as a cream solid.

reactant | DIAD | 39.53 mmol, 7.78 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 4-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperazin-1-yl)phenol | 32.94 mmol, 12 g | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C2=CC=C(C=C2)O)(F)F | C16H15F3N6O
reactant | 2-(1-methyl-1H-pyrazol-5-yl)ethanol | 49.41 mmol, 6.23 g | CN1N=CC=C1CCO | C6H10N2O
reactant | triphenylphosphine | 49.41 mmol, 12.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 6-(4-(4-(2-(1-methyl-1H-pyrazol-5-yl)ethoxy)phenyl)piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | CN1N=CC=C1CCOC1=CC=C(C=C1)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C22H23F3N8O
